US07465815B2
2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine
To a solution of tert-butyl 3-bromo-4-methoxy-2,5,6-trimethylphenylcarbamate synthesized in Reference Example 129 (27.8 g, 80.8 mmol) in THF (150 mL) was added n-butyllithium (1.6 M, 110 mL, 176 mmol) hexane solution at −78° C. and the mixture was stirred at the same temperature for 20 minutes. 2-Methyl-1-(4-methylphenyl)propane-1-one (13.1 g, 80.7 mmol) was added to the reaction solution, and the mixture was stirred at room temperature for 1 hour. Water (150 mL) was poured into the reaction mixture, which was three times extracted with ethyl acetate, the combined organic layer was washed with water, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain the crude product 26.0 g of tert-butyl 3-(1-hydroxy-2-methyl-1-(4-methylphenyl)propyl)-4-methoxy-2,5,6-trimethylphenylcarbamate. A mixture of this compound and 47% hydrobromic acid (100 mL) was heated under reflux under argon atmosphere for 4 hours. The reaction mixture was cooled to room temperature, and then was neutralized with a 8 N aqueous sodium hydroxide solution. The product was twice extracted with ethyl acetate, and the combined extract was washed with a saturated sodium hydrogen carbonate solution, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was crystallized from isopropyl ether-hexane to obtain 14.8 g (yield 62%) of the title compound. Melting point: 114-115° C.

reactant | tert-butyl 3-bromo-4-methoxy-2,5,6-trimethylphenylcarbamate | BrC=1C(=C(C(=C(C1OC)C)C)NC(OC(C)(C)C)=O)C | C15H22BrNO3
reactant | n-butyllithium | 176 mmol, 1.6 M, 110 mL | C(CCC)[Li]
reactant | 2-Methyl-1-(4-methylphenyl)propane-1-one | 80.7 mmol, 13.1 g | CC(C(=O)C1=CC=C(C=C1)C)C | C11H14O
reactant | hydrobromic acid | 100 mL | Br | BrH
reactant | sodium hydroxide | 8 N | [OH-].[Na+]
reactant | THF | 150 mL | C1CCOC1 | C4H8O
solvent | Water | 150 mL | O | H2O
product | 2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 14.8 g, yield 62% | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
